US04771065
25.6 g (0.1 mole) of 1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-1-ethanone are dissolved in 610 ml of methanol, and 6.3 g (0.15 mole) of sodium borohydride are added in portions at 5° to 10° C., while stirring. The mixture is then stirred at room temperature for one hour and heated at the boil for one hour. After the solvent has been distilled off, 250 ml of water and 50 ml of concentrated hydrochloric acid are added to the residue and the mixture is boiled up for 15 minutes. After the reaction mixture has been rendered alkaline with sodium hydroxide solution, the solid reaction product can be filtered off. It is recrystallized from aqueous acetonitrile. 12 g (42% of theory) of 1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-1-ethanol of melting point 87° C. are obtained.

reactant | 1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-1-ethanone | 0.1 mole, 25.6 g | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)=O | C10H7Cl2N3O
reactant | sodium borohydride | 0.15 mole, 6.3 g | [BH4-].[Na+]
solvent | methanol | 610 ml | CO | CH4O
product | 1-(2,4-dichlorophenyl)-2-(1,2,4-triazol-1-yl)-1-ethanol | 12 g, 42% | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)O | C10H9Cl2N3O
